US04200653
2,6-Difluorobenzamide (1.56 g) in methylene chloride was added to triethyloxonium fluoborate (1.9 g) in methylene chloride and the mixture stirred for 24 hours. The solution was then washed three times with cold sodium carbonate solution and dried over sodium sulphate. The methylene chloride solution was evaporated to yield an oil. This was mixed with chloroform and the solution filtered from insoluble material. Evaporation of the chloroform gave the ethyl 2,6-difluorobenzimidate as a mobile oil.

reactant | 2,6-Difluorobenzamide | 1.56 g | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
reactant | triethyloxonium fluoborate | 1.9 g | [B-](F)(F)(F)F.CC[O+](CC)CC
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 2,6-difluorobenzimidate | FC1=C(C(OCC)=N)C(=CC=C1)F | C9H9F2NO
